US04618714
2.7 g (0.02 mol) of anhydrous ferric chloride was added to a mixture of 185.5 g (1.0 mol) of 3-nitrobenzoyl chloride and 124 g (1.1 mol) of chlorobenzene. While introducing nitrogen gas into the reactor, the reaction was conducted with stirring at a temperature of 140° to 150° C. for 19 hours. After the completion of the reaction, an excess amount of chlorobenzene was distilled at the same temperature under reduced pressure to recover it. Then the reaction mixture was cooled to 80° C. and 500 ml of 1,2-dichloroethane was added thereto to form a homogeneous solution. While keeping the temperature at 70° to 75° C., 335 g (5 mol) of 94% nitric acid (d =1.50) was added dropwise to the above solution over a period of two hours. After the completion of the addition, the reaction was continued at the reflux temperature of 1,2-dichloroethane for 12 hours to complete the nitration reaction. 1,2-Dichloroethane was distilled off to precipitate light brown particulate chlorodinitrobenzophenone. This product was recovered by filtration, washed with water, and dried to give 286 g (over-all yield 93.2%) of crude chlorodinitrobenzophenone.

reactant | 3-nitrobenzoyl chloride | 1.0 mol, 185.5 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | chlorobenzene | 1.1 mol, 124 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | nitric acid | 5 mol, 335 g | [N+](=O)(O)[O-] | HNO3
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | chlorodinitrobenzophenone | 286 g, yield 93.2% | ClC1=C(C(=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-])[N+](=O)[O-] | C13H7ClN2O5
